US07598391B2
4-{2-[3-[1-(4-Fluoro-benzoyl)-piperidin-4-yl]-3-(4-methyl-cyclohexyl)-ureido]-thiazol-5-ylmethyl}-piperazine-1-sulfonic acid dimethylamide
Prepared as described in general procedure (N) using 4-{2-[3-(4-methyl-cyclohexyl)-3-piperidin-4-yl-ureido]-thiazol-5-ylmethyl}-piperazine-1-sulfonic acid dimethylamide hydrochloride (47 mg, 0.083 mmol), TEA (26 μL, 0.19 mmol) and 4-fluorobenzoyl chloride (10 μL, 0.083 mmol) to afford 39 mg (73%) of the desired product after purification.

reactant | 4-{2-[3-(4-methyl-cyclohexyl)-3-piperidin-4-yl-ureido]-thiazol-5-ylmethyl}-piperazine-1-sulfonic acid dimethylamide hydrochloride | 0.083 mmol, 47 mg | Cl.CN(S(=O)(=O)N1CCN(CC1)CC1=CN=C(S1)NC(=O)N(C1CCNCC1)C1CCC(CC1)C)C
reactant | 4-fluorobenzoyl chloride | 0.083 mmol, 10 μL | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | 4-{2-[3-[1-(4-Fluoro-benzoyl)-piperidin-4-yl]-3-(4-methyl-cyclohexyl)-ureido]-thiazol-5-ylmethyl}-piperazine-1-sulfonic acid dimethylamide | 39 mg, 73% | CN(S(=O)(=O)N1CCN(CC1)CC1=CN=C(S1)NC(=O)N(C1CCC(CC1)C)C1CCN(CC1)C(C1=CC=C(C=C1)F)=O)C | C30H44FN7O4S2
